US09169295B2
(S)-tert-Butyl 2-((S)-2-(2-(5-formylthiazol-2-ylamino)acetamido)propanamido)propanoate
Following the general procedure as described in Example 24, except using 2-(5-formylthiazol-2-ylamino)acetic acid, 1.00 HCl (582 mg, 2.62 mmol), (S)-tert-butyl 2-((S)-2-aminopropanamido)propanoate hydrochloride (661 mg, 2.62 mmol), 1-hydroxy-7-azabenzotriazole (175 mg, 1.29 mmol), CH2Cl2 (30 mL), EDC (588 mg, 3.07 mmol) and stirring at room temp for 18 h, 781.5 mg (78%) of the title compound is isolated by filtration as a light pink solid. LC/MS (Condition A): ret. T=2.64 min, (M+H)+ 385. 1H NMR (500 MHz, methanol-d4) δ ppm 9.66 (1 H, s), 7.97 (1 H, s), 4.37-4.53 (1 H, m), 4.21-4.32 (1 H, m), 4.16 (2 H, d, J=0.92 Hz), 1.47 (9 H, s), 1.38 (6 H, dd, J=15.72, 7.17 Hz).

reactant | 2-(5-formylthiazol-2-ylamino)acetic acid | C(=O)C1=CN=C(S1)NCC(=O)O | C6H6N2O3S
reactant | HCl | 2.62 mmol, 582 mg | Cl | ClH
reactant | (S)-tert-butyl 2-((S)-2-aminopropanamido)propanoate hydrochloride | 2.62 mmol, 661 mg | Cl.N[C@H](C(=O)N[C@H](C(=O)OC(C)(C)C)C)C
reactant | 1-hydroxy-7-azabenzotriazole | 1.29 mmol, 175 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 3.07 mmol, 588 mg
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-Butyl 2-((S)-2-(2-(5-formylthiazol-2-ylamino)acetamido)propanamido)propanoate | 781.5 mg, 78% | C(=O)C1=CN=C(S1)NCC(=O)N[C@H](C(=O)N[C@H](C(=O)OC(C)(C)C)C)C | C16H24N4O5S
